US05905068
To a solution of 318 mg (5.8 mmol) of ethyl 2,6-dimethyl-4-fluoro-phenoxyacetate in 50 mL of methanol was added 1 mL of 3N sodium hydroxide. After the reaction mixture was stirred at room temperature for 30 min, it was acidified with 3N HCl to pH=4 and partitioned between water and methylene chloride. The combined organic extracts were washed with brine and dried over anhydrous sodium sulfate, filtered and evaporated to dryness under reduced pressure to give 248 mg (90%) of 2,6-dimethyl-4-fluoro-phenoxy acetic acid as a white solid.

reactant | ethyl 2,6-dimethyl-4-fluoro-phenoxyacetate | 5.8 mmol, 318 mg | CC1=C(OCC(=O)OCC)C(=CC(=C1)F)C | C12H15FO3
reactant | sodium hydroxide | 3N, 1 mL | [OH-].[Na+]
reactant | HCl | 3N | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | 2,6-dimethyl-4-fluoro-phenoxy acetic acid | 248 mg, 90% | CC1=C(OCC(=O)O)C(=CC(=C1)F)C | C10H11FO3
